US05629325
28a. 5-(6-Hydroxy-1-hexynyl)-3-(1-methyl-2-(S)-pyrrolidinylmethoxy)pyridine
To a solution of 5-bromo-3-(1-methyl-2-(S)-pyrrolidinylmethoxy)-pyridine (272 mg, 1.00 mmol), bis(triphenylphosphine)palladium(II) chloride (28 mg, 0.039 mmol), copper (I) iodide (5 mg, 0.039 mmol) and NEt3 (1.0 mL) in CH2Cl2 (3.0 mL) was added 5-hexyn-1-ol (0.172 mL, 1.5 mmol). The mixture was refluxed overnight and then cooled to room temperature. Water (2 mL) was added, and solid sodium bicarbonate was added until the aqueous layer was saturated. The mixture was extracted with EtOAc, which was dried over MgSO4, filtered and concentrated. The residue was chromatographed on a silica gel column, eluting with NH4OH/MeOH/EtOAc 0:1:9 and 1:10:90 to afford a light yellowish oil (270 mg, 94%). MS (CI/NH3) m/z 289 (M+H)+. 1H NMR (CDCl3, 300 MHz) δ1.55-1.90 (m, 8H), 1.97-2.07 (m, 1H), 2.25-2.46 (m, 1H), 2.27 (s, 3H), 2.46-2.53 (m, 1H), 2.60-2.71 (m, 1H), 3.07-3.16 (m, 1H), 3.68-3.74 (m, 2H), 3.88-4.03 (m, 2H), 7.19 (dd, J=3.0, 1.8 Hz, 1H), 8.22 (d, J=3.0 Hz, 1H), 8.23 (d, J=1.8 Hz, 1H).

reactant | 5-bromo-3-(1-methyl-2-(S)-pyrrolidinylmethoxy)-pyridine | 1.00 mmol, 272 mg | BrC=1C=C(C=NC1)OC[C@H]1N(CCC1)C | C11H15BrN2O
reactant | NEt3 | 1.0 mL | CCN(CC)CC | C6H15N
reactant | 5-hexyn-1-ol | 1.5 mmol, 0.172 mL | C(CCCC#C)O | C6H10O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | CH2Cl2 | 3.0 mL | C(Cl)Cl | CH2Cl2
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.039 mmol, 28 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper (I) iodide | 0.039 mmol, 5 mg | [Cu]I
solvent | Water | 2 mL | O | H2O
product | 5-(6-Hydroxy-1-hexynyl)-3-(1-methyl-2-(S)-pyrrolidinylmethoxy)pyridine | 270 mg, 94% | OCCCCC#CC=1C=C(C=NC1)OC[C@H]1N(CCC1)C | C17H24N2O2
